US05102890
The procedure is as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), DL-pyroglutamic acid (3.9 g) and 1,8-diazabicyclo[5.4.0]-undec-7ene (4.6 g). After recrystallization in dimethylformamide, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-oxo-2-pyrrolidinecarboxylate (8.8 g), m.p. 255° C. (decomposition), is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | DL-pyroglutamic acid | 3.9 g | N1C(CCC1=O)C(=O)O | C5H7NO3
reactant | 1,8-diazabicyclo[5.4.0]-undec-7ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-oxo-2-pyrrolidinecarboxylate | 8.8 g | O=C1CCC(N1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C21H15ClN4O4
